US07446222B2
3-(2-Bromophenyl)-5-chloro-2-(benzyloxy)pyridine
2-(Benzyloxy)-3-bromo-5-chloropyridine (150 mg, 0.5 mmol) and 2-bromophenylboronic acid (100 mg, 0.5 mmol) were dissolved in toluene/ethanol (1:1, 5 ml) under nitrogen. Potassium carbonate (550 mg, 4 mmol) was added, followed by tetrakis(triphenylphosphine)palladium(0) (58 mg, 0.05 mmol). The resulting mixture was heated at 70° C. in a Smithcreator® microwave for 10 minutes. After cooling, diethyl ether(10 ml) and water (10 ml) were added, The organic layer was washed with water, dried (MgSO4) and evaporated. The product was purified by flash chromatography (silica gel, 2% ethyl acetate:isohexane) to give the title compound as a clear oil (80 mg).

reactant | 2-(Benzyloxy)-3-bromo-5-chloropyridine | 0.5 mmol, 150 mg | C(C1=CC=CC=C1)OC1=NC=C(C=C1Br)Cl | C12H9BrClNO
reactant | 2-bromophenylboronic acid | 0.5 mmol, 100 mg | BrC1=C(C=CC=C1)B(O)O | C6H6BBrO2
reactant | Potassium carbonate | 4 mmol, 550 mg | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | toluene ethanol | 5 ml | C1(=CC=CC=C1)C.C(C)O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 10 ml | O | H2O
product | 3-(2-Bromophenyl)-5-chloro-2-(benzyloxy)pyridine | 80 mg | BrC1=C(C=CC=C1)C=1C(=NC=C(C1)Cl)OCC1=CC=CC=C1 | C18H13BrClNO
